US06258829B1
Methyl 4-methoxy-2-methyl-6,7,8,9-tetrahydro-5H-cyclohepta[b]pyridine-3-carboxylate N-oxide
In an atmosphere of argon and at room temperature, metallic sodium (86.0 mg, 0.005 g atom) was dissolved in anhydrous methanol (8.0 ml) to which was subsequently added dropwise methanol solution (20.0 ml) of ethyl 2-methyl-4-nitro-6,7,8,9-tetrahydro-5H-cyclohepta[b]pyridine-3-carboxylate N-oxide (1.00 g, 3.40 mmol), and the resulting mixture was stirred at room temperature for 29 hours. After evaporation of the solvent under reduced pressure, the resulting residue was mixed with water and extracted with chloroform, and the thus obtained organic layer was washed with water and saturated brine in that order and dried over anhydrous sodium sulfate. After evaporation of the solvent under reduced pressure, the resulting residue was purified by a silica gel column chromatography (ethyl acetate:hexane=5:1—ethyl acetate:methanol=15:1) to obtain the title compound (777.9 mg, 86.3%) as pale yellow powder.

reactant | sodium | 86.0 mg | [Na] | Na
reactant | ethyl 2-methyl-4-nitro-6,7,8,9-tetrahydro-5H-cyclohepta[b]pyridine-3-carboxylate N-oxide | 3.40 mmol, 1.00 g | CC1=C(C(=C2C(=[N+]1[O-])CCCCC2)[N+](=O)[O-])C(=O)OCC | C14H18N2O5
reactant | methanol | 8.0 ml | CO | CH4O
reactant | methanol | 20.0 ml | CO | CH4O
product | Methyl 4-methoxy-2-methyl-6,7,8,9-tetrahydro-5H-cyclohepta[b]pyridine-3-carboxylate N-oxide | 777.9 mg, 86.3% | COC1=C2C(=[N+](C(=C1C(=O)OC)C)[O-])CCCCC2 | C14H19NO4
